US05695684
Then, 0.23 g (0.79 mM) of 2-(4-pentylphenyl)-6-hydroxyquinoline, 0.17 ml (0.82 mM) of 1-bromodecane and 2.6 ml (0.02 g of potassium hydroxide per 1 ml of butanol) of a solution of potassium hydroxide in butanol were placed in a 20 ml-round bottomed flask and refluxed for 2 hours and 50 minutes under stirring. After the reaction, the reaction mixture was left standing overnight in a freezer at -20° C. to precipitate a crystal. The crystal was recovered by filtration and successively washed with methanol and water. The resultant crystal was purified by silica gel column chromatography (eluent: toluene) and recrystallized from a mixture solvent (toluene and methanol) to obtain 0.23 g of 2-(4-pentylphenyl)-6-decyloxyquinoline (Yield: 67.5%).

reactant | 2-(4-pentylphenyl)-6-hydroxyquinoline | 0.79 mM, 0.23 g | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)O | C20H21NO
reactant | 1-bromodecane | 0.82 mM, 0.17 ml | BrCCCCCCCCCC | C10H21Br
reactant | potassium hydroxide | 0.02 g | [OH-].[K+]
solvent | butanol | C(CCC)O | C4H10O
solvent | butanol | 1 ml | C(CCC)O | C4H10O
product | 2-(4-pentylphenyl)-6-decyloxyquinoline | 0.23 g, Yield: 67.5% | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)OCCCCCCCCCC | C30H41NO
